US08431563B2
2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.22 g, 0.68 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), (3S)-3-benzyl-1-(2-thiophenylsulfonyl)piperazine (0.20 g, 0.62 mmol), sodium tert-butoxide (0.19 g, 1.9 mmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.058 g, 0.12 mmol, Strem Chemical Inc, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (0) (0.057 g, 0.062 mmol, Strem Chemical Inc, Newburyport, Mass.), and toluene (2.5 mL) were added to a high-pressure reaction vessel under a nitrogen atmosphere. The vessel was sealed and was heated at 100° C. for 29 h. Then the mixture was allowed to cool to room temperature and then partitioned between EtOAc (15 mL) and saturated aqueous sodium bicarbonate (10 mL). The layers were separated and the organic material was washed sequentially with saturated aqueous sodium bicarbonate (25 mL) and brine (15 mL), dried (Na2SO4) and filtered. The filtrate was concentrated, and the solution, and the volatiles were removed in vacuo. The residue was subjected purified via column chromatography using silica gel (twice, 100% CH2Cl2, then 25% EtOAc in hexanes) to give of 2-(4-((2S)-2-benzyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.048 g) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.72-7.54 (m, 4H), 7.33-7.14 (m, 6H), 6.94 (d, J=7.2 Hz, 2H), 4.04 (d, J=8.2 Hz, 1H), 3.91 (d, J=9.4 Hz, 1H), 3.75 (d, J=11.2 Hz, 1H), 3.54 (d, J=11.2 Hz, 1H), 3.42 (t, J=10.9 Hz, 1H), 3.31 (br. s., 1H), 3.21 (t, J=11.7 Hz, 1H), 2.67-2.48 (m, 3H); m/z (ESI, +ve ion) 565.0 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=0.308 μM; GK-GKRP EC50 (LC MS/MS)=0.772 μM.

reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.68 mmol, 0.22 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | (3S)-3-benzyl-1-(2-thiophenylsulfonyl)piperazine | 0.62 mmol, 0.20 g | C(C1=CC=CC=C1)[C@H]1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C15H18N2O2S2
reactant | sodium tert-butoxide | 1.9 mmol, 0.19 g | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.12 mmol, 0.058 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.062 mmol, 0.057 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-((2S)-2-benzyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.048 g | C(C1=CC=CC=C1)[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C24H22F6N2O3S2
